US07915270B2
Step 1: 5-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)thiophene-2-sulfonamide.
The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (54 mg, 0.081 mmol) and 5-bromothiophene-2-sulfonamide following General Procedure A. Flash chromatography (10-20% EtOAc/hexanes) yielded the title compound as a white solid (33 mg, 75%): 1H NMR (CDCl3, 500 MHz) δ 7.68 (d, 1H, J=4.0 Hz), 7.36-7.33 (m, 3H), 7.29 (d, 1H, J=3.5 Hz), 7.26-7.23 (m, 3H), 5.29 (s, 2H), 4.89 (t, 1H, J=6.0 Hz), 2.67 (t, 2H, J=7.5 Hz), 2.02-1.95 (m, 2H), 1.74-1.59 (m, 2H), 1.40-1.38 (m, 6H), 0.97 (s, 9H), 0.17 (s, 3H), 0.08 (s, 3H); 13C NMR (CDCl3, 125 MHz) δ 166.2, 145.2, 143.2, 142.5, 136.4, 132.7, 128.8, 128.7, 126.0, 124.2, 123.8, 68.9, 36.7, 36.3, 31.8, 29.6, 26.1, 26.1, 25.5, 18.6, −4.5, −4.7.

reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.081 mmol, 54 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 5-bromothiophene-2-sulfonamide | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)thiophene-2-sulfonamide | 33 mg, 75% | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=CC=C(S1)S(=O)(=O)N | C26H38N2O4S2Si
